US07745477B2
b) Preparation of 4-benzyloxy-3-tert-butyl-benzaldehyde
A solution of 6.985 g 1-benzyloxy-2-tert-butyl-4-methyl-benzene (27 mmol) and 115 g ammoniumcer (IV)-nitrate in 1000 ml acetic acid (50% v/v) was stirred at 90° C. for one hour. After cooling down to RT, the reaction mixture was extracted with AcOEt/heptane 1:9, dried over magnesium sulfate, filtered off and concentrated under vacuo. The residue was purified by flash column chromatography (heptane/AcOEt 95/5 to 90/10) to give 3.48 g of an orange solid. MS (ISP) 269.3 (M+H)+.

reactant | 1-benzyloxy-2-tert-butyl-4-methyl-benzene | 27 mmol, 6.985 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C(C)(C)C | C18H22O
reactant | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 4-benzyloxy-3-tert-butyl-benzaldehyde | 3.48 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)C(C)(C)C | C18H20O2
